US07799787B2
N-(3-Methylbutyl)-6-[3-(2-phenylethyl)pyrrolidin-1-yl]pyridazine-3-carboxamide
To a solution of 6-chloro-N-(3-methylbutyl)pyridazine-3-carboxamide (20 mg, 0.088 mmol) and 3-(2-phenylethyl)pyrrolidine (23 mg, 0.13 mmol) in 1-methyl-2-pyrrolidinone (1 mL) was added Et3N (25 μL, 0.18 mmol) at room temperature. The mixture was stirred at 120° C. overnight. The reaction was then concentrated and the residue purified using a semi-prep HPLC/MS to give the title compound. MS (+ESI) m/z 367 (MH+).

reactant | 6-chloro-N-(3-methylbutyl)pyridazine-3-carboxamide | 0.088 mmol, 20 mg | ClC1=CC=C(N=N1)C(=O)NCCC(C)C | C10H14ClN3O
reactant | 3-(2-phenylethyl)pyrrolidine | 0.13 mmol, 23 mg | C1(=CC=CC=C1)CCC1CNCC1 | C12H17N
reactant | Et3N | 0.18 mmol, 25 μL | CCN(CC)CC | C6H15N
solvent | 1-methyl-2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | N-(3-Methylbutyl)-6-[3-(2-phenylethyl)pyrrolidin-1-yl]pyridazine-3-carboxamide | CC(CCNC(=O)C=1N=NC(=CC1)N1CC(CC1)CCC1=CC=CC=C1)C | C22H30N4O
